US05804097
a. 2-(4-Hydroxyphenyl)-5-octylpyrimidine
137.7 ml (1.5 mol) of POCl3 are added with ice cooling to 135 g (1.85 mol) of DMF, and the mixture is subsequently stirred at room temperature for 15 minutes. 202 g (1 mol) of decanal dimethyl acetal dissolved in 500 ml of DMF are then. added dropwise, and, after addition is complete, the mixture is stirred for about 3 further hours. 262.5 g (1 mol) of 4-benzoxybenzamidine are subsequently added, and the mixture is stirred for a further hour. 1.1 l of triethylamine are then slowly added, during which the temperature rises to about 70° C. In order to maintain stirrability, about 700 ml of DMF are added, and the triethylamine is subsequently removed by distillation at atmospheric pressure. The residue is poured into about 6 l of ice water. The precipitated product is washed with water, recrystallized from 2.5 1 of isobutanol, dissolved in 1 l of ethyl acetate and hydrogenated at atmospheric pressure with addition of 10 g of Pd/C (10%) until take-up of hydrogen ceases. The catalyst is filtered off with suction, and the residue from evaporation of the filtrate is dried at 50° C. under reduced pressure.

reactant | POCl3 | 1.5 mol, 137.7 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | decanal dimethyl acetal | 1 mol, 202 g | COC(CCCCCCCCC)OC | C12H26O2
reactant | 4-benzoxybenzamidine | 1 mol, 262.5 g | C(C1=CC=CC=C1)OC1=CC=C(C(=N)N)C=C1 | C14H14N2O
reactant | triethylamine | 1.1 l | C(C)N(CC)CC | C6H15N
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | about 700 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.85 mol, 135 g | CN(C)C=O | C3H7NO
product | 2-(4-Hydroxyphenyl)-5-octylpyrimidine | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCC | C18H24N2O
